US07855194B2
Step 1: 4-(4-Methoxy-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid ethyl ester
A mixture of 2-chloro-4-methoxy-pyrimidine (3.64 g, 25.21 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid ethyl ester (4.34 g, 25.21 mmol, 1.0 equiv; commercially available) in anhydrous NMP (32 mL) was heated by microwave irradiation to 200° C. for 15 min. The organic phase was concentrated under reduced pressure and the residue extracted with ethyl acetate (3×50 mL) from a solution of 1 M NaOH (100 mL). The combined organic phases were dried over MgSO4 and the product purified with column chromatography on silica eluting with heptane/ethyl acetate (1:1) providing 2.93 g (42%) of the title compound. MS (ISP): 281.3 [M+H]+.

reactant | 2-chloro-4-methoxy-pyrimidine | ClC1=NC=CC(=N1)OC | C5H5ClN2O
reactant | 4-amino-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)N | C8H16N2O2
solvent | NMP | 32 mL | CN1CCCC1=O | C5H9NO
product | 4-(4-Methoxy-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid ethyl ester | 2.93 g, 42% | C(C)OC(=O)N1CCC(CC1)NC1=NC=CC(=N1)OC | C13H20N4O3
